US08278290B2
(i) 3-Acetoxy-2,4-dimethoxyiodobenzene
To an ice-cooled suspension of acetic acid 2,6-dimethoxy-phenyl ester (1.0 g, 5.1 mmol) and silver triflouroacetate (5.1 mmol) in CHCl3 (16 ml) was added iodine (1.3 g, 5.1 mmol) and the reaction stirred for 1 hour. The crude mixture was filtered through celite to remove the precipitated silver iodide and the filtrate was washed with 10% Na2S2O3(aq). An emulsion was formed and the mixture was again passed through celite and the filtrate washed with brine, dried over MgSO4 and concentrated under reduced pressure to give the product as a tan solid (1.57 g, 96%). 1H-NMR (300 MHz, CDCl3) δ 7.55 (d, J=8.9 Hz, 1H), 6.54 (d, J=8.9 Hz, 1H), 3.80 (s, 6H), 2.33 (s, 3H).

reactant | acetic acid 2,6-dimethoxy-phenyl ester | 5.1 mmol, 1.0 g | COC1=C(C(=CC=C1)OC)OC(C)=O | C10H12O4
reactant | iodine | 5.1 mmol, 1.3 g | II | I2
solvent | CHCl3 | 16 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | silver triflouroacetate | 5.1 mmol | FC(C(=O)[O-])(F)F.[Ag+]
product | 3-Acetoxy-2,4-dimethoxyiodobenzene | 1.57 g, 96% | C(C)(=O)OC=1C(=C(C=CC1OC)I)OC | C10H11IO4
